US07012089B2
{[2-(4-Fluoro-2-nitro-phenyl)-ethyl]-methyl-amino}-acetic acid ethyl ester
A solution of [2-(4-fluoro-2-nitro-phenyl)-ethyl]-methyl-amine (10.4 g, 0.053 mole) and ethyl bromoacetate (8.8 g, 0.053 mole) in acetonitrile (200 mL) containing potassium carbonate (3.64 g, 0.026 mole) was stirred at room temperature overnight. The mixture was evaporated in vacuo, water was added to the residue and then extracted with dichloromethane (2×200 mL). The combined organic layers were washed with saturated sodium chloride (300 mL), dried and concentrated. Purification by flash column chromatography (silica gel, methylene chloride:hexanes 1:1 to methylene chloride) provided 10.0 g of the title compound as a light brown oil. 1H NMR (CDCl3): 7.65 δ (dd, 1H); 7.40 δ (dd, 1H); 7.25 δ (dd, 1H); 4.20 δ (m, 2H); 3.30 δ (s, 2H); 3.05 δ (t, 2H); 2.80 δ (t, 2H); 2.45 δ (s, 3H); 1.25 δ (t, 3H).

reactant | [2-(4-fluoro-2-nitro-phenyl)-ethyl]-methyl-amine | 0.053 mole, 10.4 g | FC1=CC(=C(C=C1)CCNC)[N+](=O)[O-] | C9H11FN2O2
reactant | ethyl bromoacetate | 0.053 mole, 8.8 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 0.026 mole, 3.64 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | {[2-(4-Fluoro-2-nitro-phenyl)-ethyl]-methyl-amino}-acetic acid ethyl ester | 10.0 g | C(C)OC(CN(C)CCC1=C(C=C(C=C1)F)[N+](=O)[O-])=O | C13H17FN2O4
